US07820707B2
c) 2-(2-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
3-(Trifluoromethyl)pyrazole-4-carbaldehyde (332 mg, 2.02 mmol) was dissolved in THF (10 mL). Potassium tert-butoxide (454 mg, 4.05 mmol) was added, followed by 2-(2-bromoacetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (670 mg, 2.02 mmol). The reaction mixture was stirred at RT overnight. Aqueous NH4Cl (10 mL) was added and the reaction mixture extracted with DCM (3×10 mL). The combined DCM layers were washed with sodium bicarbonate solution (5×10 mL). The aqueous was separated using hydrophobic filter paper and the solvent removed in vacuo to give the desired product as a brown foam (0.73 g, 1.76 mmol, 87%).

reactant | 3-(Trifluoromethyl)pyrazole-4-carbaldehyde | 2.02 mmol, 332 mg | FC(C1=NNC=C1C=O)(F)F | C5H3F3N2O
reactant | Potassium tert-butoxide | 4.05 mmol, 454 mg | CC(C)([O-])C.[K+]
reactant | 2-(2-bromoacetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 2.02 mmol, 670 mg | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC | C12H15BrN2O2S
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-N-methyl-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 1.76 mmol, 0.73 g, 87% | C(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NC)C(F)(F)F | C17H17F3N4O3S
